* Copyright © Linear Technology Corp. 2012.  All rights reserved.
*
.subckt LT1118-2.5 1 2 3 4 5 6
C4 5 1 10p
C5 6 1 50p
M1 N005 N008 6 6 Q temp=27
D2 5 N005 DO
G2 5 N008 5 6 .5µ
G1 N008 6 6 N007 100µ
C1 6 N008 .1p Rpar=10K noiseless
C3 N005 5 10p
C2 6 N007 50p Rpar=2Meg Rser=30K
A1 4 1 6 6 6 6 N007 6 OTA g=50u Iout=10u Ref=1.225 Vhigh=1 Vlow=-1
A2 5 1 1 1 1 1 N004 1 SCHMITT Vt=2 Vh=1m
A3 3 1 1 1 1 1 N002 1 SCHMITT Vt=1.4 Vh=1m
C6 3 1 1p
A4 1 N002 1 N004 1 1 N003 1 AND tau=1u
D4 3 1 1uA m=.1
S1 6 N008 1 N003 SD
S2 6 N007 1 N003 SD
D1 1 6 S
S3 N009 1 1 N003 SD
G3 1 N009 6 N007 100µ
C7 N009 1 .1p Rpar=10K noiseless
M2 6 N009 1 1 Q temp=27
D5 6 5 S
D6 N009 1 L
D7 4 1 1uA m=.35
D3 5 1 1uA
S4 5 1 N003 1 600uA
D8 6 N007 L N=3
D9 N007 6 L N=3
R3 6 4 51.4K
C9 4 1 .5p Rpar=50K
.model Q VDMOS(Vto=2m Kp=100)
.model DO D(Ron=.25 epsilon=.1 Vfwd=.8 Ilimit=1.2 noiseless)
.model 1uA D(Ron=50K Roff=50K Ilimit=1u noiseless)
.model SD SW(Ron=100 Roff=1G Vt=-.5 Vh=-.4)
.model S D(Ron=1 epsilon=2)
.model L D(Ron=100 Vfwd=110m epsilon=24m)
.model 600uA SW(Ron=50 Roff=1G Vt=.5 Vh=-.4 Ilimit=600u level=2)
.ends LT1118-2.5
*
.subckt LT1118-2.85 1 2 3 4 5 6
C4 5 1 10p
C5 6 1 50p
M1 N005 N008 6 6 Q temp=27
D2 5 N005 DO
G2 5 N008 5 6 .5µ
G1 N008 6 6 N007 100µ
C1 6 N008 .1p Rpar=10K noiseless
C3 N005 5 10p
C2 6 N007 50p Rpar=2Meg Rser=30K
A1 4 1 6 6 6 6 N007 6 OTA g=50u Iout=10u Ref=1.225 Vhigh=1 Vlow=-1
A2 5 1 1 1 1 1 N004 1 SCHMITT Vt=2 Vh=1m
A3 3 1 1 1 1 1 N002 1 SCHMITT Vt=1.4 Vh=1m
C6 3 1 1p
A4 1 N002 1 N004 1 1 N003 1 AND tau=1u
D4 3 1 1uA m=.1
S1 6 N008 1 N003 SD
S2 6 N007 1 N003 SD
D1 1 6 S
S3 N009 1 1 N003 SD
G3 1 N009 6 N007 100µ
C7 N009 1 .1p Rpar=10K noiseless
M2 6 N009 1 1 Q temp=27
D5 6 5 S
D6 N009 1 L
D7 4 1 1uA m=.35
D3 5 1 1uA
S4 5 1 N003 1 600uA
D8 6 N007 L N=3
D9 N007 6 L N=3
R3 6 4 65.39K
C9 4 1 .5p Rpar=50K
.model Q VDMOS(Vto=2m Kp=100)
.model DO D(Ron=.25 epsilon=.1 Vfwd=.8 Ilimit=1.2 noiseless)
.model 1uA D(Ron=50K Roff=50K Ilimit=1u noiseless)
.model SD SW(Ron=100 Roff=1G Vt=-.5 Vh=-.4)
.model S D(Ron=1 epsilon=2)
.model L D(Ron=100 Vfwd=110m epsilon=24m)
.model 600uA SW(Ron=50 Roff=1G Vt=.5 Vh=-.4 Ilimit=600u level=2)
.ends LT1118-2.85
*
.subckt LT1118-5 1 2 3 4 5 6
C4 5 1 10p
C5 6 1 50p
M1 N005 N008 6 6 Q temp=27
D2 5 N005 DO
G2 5 N008 5 6 .5µ
G1 N008 6 6 N007 100µ
C1 6 N008 .1p Rpar=10K noiseless
C3 N005 5 10p
C2 6 N007 50p Rpar=2Meg Rser=30K
A1 4 1 6 6 6 6 N007 6 OTA g=50u Iout=10u Ref=1.225 Vhigh=1 Vlow=-1
A2 5 1 1 1 1 1 N004 1 SCHMITT Vt=2 Vh=1m
A3 3 1 1 1 1 1 N002 1 SCHMITT Vt=1.4 Vh=1m
C6 3 1 1p
A4 1 N002 1 N004 1 1 N003 1 AND tau=1u
D4 3 1 1uA m=.1
S1 6 N008 1 N003 SD
S2 6 N007 1 N003 SD
D1 1 6 S
S3 N009 1 1 N003 SD
G3 1 N009 6 N007 100µ
C7 N009 1 .1p Rpar=10K noiseless
M2 6 N009 1 1 Q temp=27
D5 6 5 S
D6 N009 1 L
D7 4 1 1uA m=.35
D3 5 1 1uA
S4 5 1 N003 1 600uA
D8 6 N007 L N=3
D9 N007 6 L N=3
R3 6 4 151.9K
C9 4 1 .5p Rpar=50K
.model Q VDMOS(Vto=2m Kp=100)
.model DO D(Ron=.25 epsilon=.1 Vfwd=.8 Ilimit=1.2 noiseless)
.model 1uA D(Ron=50K Roff=50K Ilimit=1u noiseless)
.model SD SW(Ron=100 Roff=1G Vt=-.5 Vh=-.4)
.model S D(Ron=1 epsilon=2)
.model L D(Ron=100 Vfwd=110m epsilon=24m)
.model 600uA SW(Ron=50 Roff=1G Vt=.5 Vh=-.4 Ilimit=600u level=2)
.ends LT1118-5
*
.subckt LT1118 1 2 3 4 5 6
C4 5 1 10p
C5 6 1 50p
M1 N005 N008 6 6 Q temp=27
D2 5 N005 DO
G2 5 N008 5 6 .5µ
G1 N008 6 6 N007 100µ
C1 6 N008 .1p Rpar=10K noiseless
C3 N005 5 10p
C2 6 N007 50p Rpar=2Meg Rser=30K
A1 4 1 6 6 6 6 N007 6 OTA g=50u Iout=10u Ref=1.225 Vhigh=1 Vlow=-1
A2 5 1 1 1 1 1 N004 1 SCHMITT Vt=2 Vh=1m
A3 3 1 1 1 1 1 N002 1 SCHMITT Vt=1.4 Vh=1m
C6 3 1 1p
A4 1 N002 1 N004 1 1 N003 1 AND tau=1u
D4 3 1 1uA m=.1
S1 6 N008 1 N003 SD
S2 6 N007 1 N003 SD
D1 1 6 S
S3 N010 1 1 N003 SD
G3 1 N010 6 N007 100µ
C7 N010 1 .1p Rpar=10K noiseless
M2 6 N010 1 1 Q temp=27
D5 6 5 S
D6 N010 1 L
D7 4 1 1uA m=.35
D3 5 1 1uA
S4 5 1 N003 1 600uA
D8 6 N007 L N=3
D9 N007 6 L N=3
C9 4 1 .5p
.model Q VDMOS(Vto=2m Kp=100)
.model DO D(Ron=.25 epsilon=.1 Vfwd=.8 Ilimit=1.2 noiseless)
.model 1uA D(Ron=50K Roff=50K Ilimit=1u noiseless)
.model SD SW(Ron=100 Roff=1G Vt=-.5 Vh=-.4)
.model S D(Ron=1 epsilon=2)
.model L D(Ron=100 Vfwd=110m epsilon=24m)
.model 600uA SW(Ron=50 Roff=1G Vt=.5 Vh=-.4 Ilimit=600u level=2)
.ends LT1118
